US09416080B2
c-C6H11—OCH2CH2CH2CH2CH2CH2CH2CH3
Into a pressure vessel 1-octanol (160 μL, 1 mmol, 1 eq) was added and diluted with cyclohexane (1.080 mL, 10 mmol, 10 eq). To this stirring solution was added 1 mol % of a stock solution of {[Cl2NN]Cu}2(benzene) from the catalyst stock solution described in Example 4 (200 μL=0.01 mmol). After adding of tert-butyl peroxide (220 μL, 1.2 mmol), the pressure vessel was sealed and heated to 90° C. for 24 hr. The catalyst was separated by exposing the mixture to air and filtering through Celite®. After removing cyclohexane under vacuum, the residue was analyzed by 1H NMR and GC/MS to determine the yield and consumption of starting materials. 1H NMR Yield: 42%.

reactant | 1-octanol | 1 mmol, 160 μL, 1 eq | C(CCCCCCC)O | C8H18O
reactant | cyclohexane | 10 mmol, 1.080 mL, 10 eq | C1CCCCC1 | C6H12
reactant | tert-butyl peroxide | 1.2 mmol, 220 μL | C(C)(C)(C)OOC(C)(C)C | C8H18O2
product | c-C6H11—OCH2CH2CH2CH2CH2CH2CH2CH3 | Yield: 42% | C1(CCCCC1)OCCCCCCCC | C14H28O
